US07935815B2
Synthesis of 5-chloro-2-cyclopropyl-valeric acid hydrazide
Trifluoroacetic acid (0.5 ml) was added to a solution of tert-butyl N′-(5-chloro-2-cyclopropyl-pentanoyl)-hydrazinecarboxylate (208 mg) in methylene chloride (1 ml) under ice-cooling, and then the reaction solution was stirred at room temperature for two hours. A saturated sodium bicarbonate solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was sequentially washed with a saturated sodium bicarbonate solution and brine. The combined aqueous layers were reextracted with ethyl acetate (twice). The combined organic layers were dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 127 mg of the title compound. The property values of the compound are as follows.

reactant | Trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N′-(5-chloro-2-cyclopropyl-pentanoyl)-hydrazinecarboxylate | 208 mg | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)C1CC1 | C13H23ClN2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-cyclopropyl-valeric acid hydrazide | 127 mg | ClCCCC(C(=O)NN)C1CC1 | C8H15ClN2O
